US06518423B1
4-(1-Benzyl-4-hydroxypiperidin-4-yl)-2-methoxybenzaldehyde
To 10.0 g of 4-(1-benzyl-4-hydroxypiperidin-4-yl)-2-methoxybenzaldehyde dimethyl acetal were added 100 ml of toluene and 6.15 g of p-toluenesulfonic acid monohydrate and the resulting mixture was heated under reflux for 1 hour. To the reaction mixture were added water and triethylamine followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 3.43 g of the title compound as a pale brown oily substance.

reactant | 4-(1-benzyl-4-hydroxypiperidin-4-yl)-2-methoxybenzaldehyde dimethyl acetal | 10.0 g | COC(C1=C(C=C(C=C1)C1(CCN(CC1)CC1=CC=CC=C1)O)OC)OC | C22H29NO4
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid monohydrate | 6.15 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(1-Benzyl-4-hydroxypiperidin-4-yl)-2-methoxybenzaldehyde | 3.43 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=C(C=O)C=C1)OC | C20H23NO3
